US05322952
To a solution of (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-pyrrolidinecarboxylic acid (559 mg) in methylene chloride (15ml), cooled to -10° C., were added triethylamine (329 mg) and isopropyl chlorocarbonate (366 mg). The mixture was stirred at -10° C. for 20 minutes. Triethylamine (329 mg) and methanesulfonyl chloride (342 mg) were added thereto, and the mixture was stirred at -10° C. for 20 minutes. After triethylamine (657 mg) was added, an excessive amount of hydrogen sulfide was passed through for 30 minutes. Concentrated hydrochloric acid (790 mg) and ethyl acetate (20 ml) were added thereto, and the mixture was dried above magnesium sulfate. After a substance left undissolved was separated by filtration, the solvent was removed by vacuum distillation, thereby to give oily crude (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy -2-pyrrolidinethiocarboxylic acid (800 mg). This compound was mixed with 1N-sodium hydroxide solution (4 ml) and toluene (4 ml). Liquid layers were separated and the aqueous layer was further washed with toluene (3 ml). Aqueous layer was acidified with 1N-hydrochloric acid (5 ml) and extracted with ethyl acetate (10 ml) and again with ethyl acetate (5 ml). Organic layers were combined and dried over magnesium sulfate. Distillation of the solvent gave (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-pyrrolidinethiocarboxylic acid.

reactant | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-pyrrolidinecarboxylic acid | 559 mg | C(C=C)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)O | C9H13NO5
reactant | isopropyl chlorocarbonate | 366 mg | C(OC(C)C)(=O)Cl | C4H7ClO2
reactant | methanesulfonyl chloride | 342 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrogen sulfide | S | H2S
reactant | hydrochloric acid | 790 mg | Cl | ClH
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
solvent | methylene chloride | 15ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 657 mg | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 329 mg | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 329 mg | C(C)N(CC)CC | C6H15N
product | (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-pyrrolidinethiocarboxylic acid | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)C(O)=S | C10H15NO6S2
